US05254687
A mixture of 2.36 g (10 mmol) of ethyl 4-(4-hydroxy-3-oxobutyl)benzoate, 0.66 g. (10 mmol) of malononitrile, and 1.01 g (10 mmol) of triethylamine in 10 mL of ethanol is stirred at 25° C. for 10 hours. Ethyl 4-[2-(2-amino-3-cyanofur-4-yl)ethyl]benzoate is formed as a solid and can be collected by filtration. After washing with a small amount of methylene chloride and drying, a white solid is obtained; m.p. 195°-197° C. Anal. calcd for C16H16N2O3 : C, 67.60; H, 5.67; N, 9.85 Found: C, 67.85; H, 5.71; N, 10.14.

reactant | ethyl 4-(4-hydroxy-3-oxobutyl)benzoate | 10 mmol, 2.36 g | OCC(CCC1=CC=C(C(=O)OCC)C=C1)=O | C13H16O4
reactant | malononitrile | 10 mmol | C(CC#N)#N | C3H2N2
reactant | triethylamine | 10 mmol, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl 4-[2-(2-amino-3-cyanofur-4-yl)ethyl]benzoate | NC=1OC=C(C1C#N)CCC1=CC=C(C(=O)OCC)C=C1 | C16H16N2O3
